US08664217B2
A 4N-hydrogen chloride ethyl acetate solution (0.42 ml) was added to an ethyl acetate solution (3 ml) of 7-(3-aminopropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (264 mg), and stirred at room temperature for 30 minutes. The reaction mixture was concentrated to dryness under reduced pressure to thereby obtain 0.22 g of 7-(3-aminopropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione hydrochloride as a white amorphous solid.

reactant | hydrogen chloride ethyl acetate | 0.42 ml | C(C)OC(C)=O.Cl
reactant | 7-(3-aminopropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 264 mg | NCCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | C17H25N3O3
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | 7-(3-aminopropoxy)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione hydrochloride | 0.22 g | Cl.NCCCOC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | InChI=1S/C17H25N3O3.ClH/c1-5-20-13-8-7-12(23-10-6-9-18)11-14(13)19(4)15(21)17(2,3)16(20)22;/h7-8,11H,5-6,9-10,18H2,1-4H3;1H
